US07781443B2
(2R,4S)-2-Ethyl-6-methoxy-4-{(3-methoxycarbonyl-5-trifluoromethylbenzyl)-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (86 mg) is dissolved in methanol (9 ml) and N,N-dimethylformamide (1 ml), and thereto is added 1N aqueous NaOH solution (3 ml). The mixture is stirred at room temperature for 1.5 hours, and partitioned by adding 1N HCl and ethyl acetate. The organic layer is washed with saturated brine, then dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by thin layer silica gel chromatography (chloroform:methanol=9:1) to give (2R,4S)-4-{(3-carboxy-5-trifluoromethylbenzyl)-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (25 mg). MS (m/z): 645 [M+H]+.

reactant | (2R,4S)-2-Ethyl-6-methoxy-4-{(3-methoxycarbonyl-5-trifluoromethylbenzyl)-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 86 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(=O)OC)N1CCOCC1)CC | C32H37F3N6O6
reactant | NaOH | 1N, 3 ml | [OH-].[Na+]
solvent | methanol | 9 ml | CO | CH4O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (2R,4S)-4-{(3-carboxy-5-trifluoromethylbenzyl)-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 25 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(=O)O)N1CCOCC1)CC | C31H35F3N6O6
